US05344843
A solution of 4-[-2-[[1,1'-biphenyl]-2-yl]-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester (0.563 g) in warm methanol (5 mL) was treated with 1N sodium hydroxide (3.3 mL). Within 5 minutes water (30 mL) was added, then after the methanol was removed in vacuo, the mixture was acidified with 1N hydrochloric acid (4.1 mL) and extracted with dichloromethane (1×60 mL, 2×10 mL). The combined organic layers were washed with water, then dried (MgSO4) and evaporated. The resulting yellow foam was taken up in diethyl ether, and after the the mixture was filtered to remove some insoluble material, the fillrate was evaporated and the residue was lyophilized from benzene to furnish 0.36 g of 4-[2-[[1,1'-biphenyl]-2-yl]-2-oxoethoxy]-alpha-oxobenzeneacetic acid.

reactant | 4-[-2-[[1,1'-biphenyl]-2-yl]-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.563 g | COC(C(C1=CC=C(C=C1)OCC(=O)C1=C(C=CC=C1)C1=CC=CC=C1)=O)=O | C23H18O5
reactant | sodium hydroxide | 1N, 3.3 mL | [OH-].[Na+]
reactant | water | 30 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 4-[2-[[1,1'-biphenyl]-2-yl]-2-oxoethoxy]-alpha-oxobenzeneacetic acid | 0.36 g | C1(=C(C=CC=C1)C(COC1=CC=C(C=C1)C(C(=O)O)=O)=O)C1=CC=CC=C1 | C22H16O5
